US04468402
3.76 Grams of 6-(4-acetylmethyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril monohydrochloride was dissolved in 50 ml of methanol, under ice-cooled condition, 0.44 g of sodium borohydride (NaBH4) was added slowly and then stirred at a room temperature for 1 hour. After the reaction was completed, a concentrated hydrochloric acid was added to ajust the pH of the reaction mixture to about pH 1, then most portion of the solvent was removed by distillation under a reduced pressure and the residue was extracted with 1N--NaOH-chloroform. The organic layer was washed with water and dried with anhydrous sodium sulfate, then the solvent was removed by distillation. The residue obtained was treated by means of a column chromatography and recrystallized from ethanol to obtain 2.26 g of 6-[4-(2-hydroxypropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril. Colorless flake-like crystals. Melting point: 156°-157.5° C.

reactant | 6-(4-acetylmethyl-1-piperazinylcarbonyl)-3,4-dihydrocarbostyril monohydrochloride | Cl.C(C)(=O)CN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O
reactant | sodium borohydride | 0.44 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 6-[4-(2-hydroxypropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | 2.26 g | OC(CN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C | C17H23N3O3
